US07737177B2
Preparation of Amorphous Mupirocin Calcium
Pseudomonic acid (5.00 g, 10 mmole) was dissolved in methanol (5.5 ml), methanolic solution of potassium hydroxide (0.56 g, 10 mmole potassium hydroxide and 4 ml methanol) and methanolic solution of calcium chloride (0.56 g, 5.0 mmole calcium chloride and 5 ml methanol) were added to the mixture. The mixture was stirred for 1 hour. The solution was then filtered to remove potassium chloride (0.60 g). The methanol was then evaporated at reduced pressure to give a solid, white foam. The product was dried for 12 hours at 45° C. under vacuum to obtain 4.85 grams of final product. Assay: 95.9%, Water: 2.23% [total impurity: 3.19%, highest impurity: 1.23%-different method than assay], melting point: 85 to 89° C.

reactant | Pseudomonic acid | 10 mmole, 5.00 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | potassium hydroxide | 10 mmole, 4 ml, 0.56 g | [OH-].[K+]
reactant | calcium chloride | 5.0 mmole, 5 ml, 0.56 g | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 5.5 ml | CO | CH4O
product | Mupirocin Calcium | 4.85 grams | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.[Ca+2] | InChI=1S/2C26H44O9.Ca/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);/q;;+2/p-2/b2*16-13+;/t2*17-,18-,19-,20-,21-,24+,25-,26-;/m00./s1
